US06982352B2
In a similar manner to Example 1, 202.1 g (0.75 mol) of diisononylamine and 170.3 g (1.65 mol) of formaldehyde (29.1%) are reacted in a 1 l autoclave; a maximum pressure of 1.9 MPa is established at a temperature of 160° C. After the end of the reaction, the organic phase is removed from the aqueous phase; the remaining organic phase is subsequently distilled. 208.0 g of N-methyldiisononylamine having a purity of 85.0% are isolated, corresponding to a yield of 83.2% of theory.

reactant | diisononylamine | 0.75 mol, 202.1 g | C(CCCCCC(C)C)NCCCCCCC(C)C | C18H39N
reactant | formaldehyde | 1.65 mol, 170.3 g | C=O | CH2O
product | N-methyldiisononylamine | 208.0 g, yield of 83.2% | CN(CCCCCCC(C)C)CCCCCCC(C)C | C19H41N
